US04606756
2-(Pyrid-3-yl)-3-oxo-4-(3-trifluoromethylphenyl)-5-methylamino-2,3-dihydrofuran
Two (2) grams of 2-(pyrid-3-yl)-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran was dissolved in 50 ml of methylene chloride at room temperature. 0.24 g of sodium hydroxide, dissolved in the minimum amount of water needed to dissolve the sodium hydroxide, and 0.46 g of benzyltrimethylammonium chloride was added. Then a solution containing 0.79 g of dimethylsulfate in about 10 ml of methylene chloride was slowly added and the mixture stirred for two days at room temperature. The mixture was then washed with water, dried over magnesium sulfate and evaporatyed to a solid residue. The residue was triturated with 30% vol. ethyl acetate: 70% petroleum ether and filtered.

reactant | 2-(pyrid-3-yl)-3-oxo-4-(3-trifluoromethylphenyl)-5-amino-2,3-dihydrofuran | N1=CC(=CC=C1)C1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)N | C16H11F3N2O2
reactant | sodium hydroxide | 0.24 g | [OH-].[Na+]
reactant | dimethylsulfate | 0.79 g | COS(=O)(=O)OC | C2H6O4S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
catalyst | benzyltrimethylammonium chloride | 0.46 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | methylene chloride | about 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(Pyrid-3-yl)-3-oxo-4-(3-trifluoromethylphenyl)-5-methylamino-2,3-dihydrofuran | N1=CC(=CC=C1)C1OC(=C(C1=O)C1=CC(=CC=C1)C(F)(F)F)NC | C17H13F3N2O2
